US07067540B2
Step 2: Preparation of 3-bromo-1-(4-fluorobenzyl)-4-[(4-fluorobenzyl)amino]-6-methylpyridin-2(1H)-one
To a solution of 1-(4-fluorobenzyl)-4-[(4-fluorobenzyl)amino]-6-methylpyridin-2(1H)-one (0.2857 g, 0.84 mmol) in MeCl2 was added NBS (0.156 g, 0.88 mmol). The reaction stirred at room temperature under nitrogen for 45 minutes. The reaction mixture was diluted with MeCl2 and washed with NaHCO3. The organic extracts were washed with water, dried over Na2SO4, and concentrated to afford the desired product (0.3242 g, 92%) as a yellow solid. 1H-NMR (CD3OD, 400 MHz) δ 7.32 (q, 2H), 7.04 (m, 6H), 5.91 (s, 1H), 5.28 (s, 2H), 4.50 (s, 2H), 2.17 (s, 3H); ES-HRMS m/z 419.0549/421.0537 (M+H calculated for C20H18N2OBrF2 requires 419.0565/421.0547).

reactant | 1-(4-fluorobenzyl)-4-[(4-fluorobenzyl)amino]-6-methylpyridin-2(1H)-one | 0.84 mmol, 0.2857 g | FC1=CC=C(CN2C(C=C(C=C2C)NCC2=CC=C(C=C2)F)=O)C=C1 | C20H18F2N2O
reactant | NBS | 0.88 mmol, 0.156 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | MeCl2 | C(Cl)Cl | CH2Cl2
product | 3-bromo-1-(4-fluorobenzyl)-4-[(4-fluorobenzyl)amino]-6-methylpyridin-2(1H)-one | 0.3242 g, 92% | BrC=1C(N(C(=CC1NCC1=CC=C(C=C1)F)C)CC1=CC=C(C=C1)F)=O | C20H17BrF2N2O
